reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](\[C:4]([H:13])([H:14])[H:15])([O:5][H:16])=[C:6](\[C:7][H:17])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],36.468823262568094
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:5]1=[N:6][C:4]1([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],99.48277778523372
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C@:3]([N:4]([H:13])[H:14])([H:12])/[C:5]1=[N:6]/[H:7],98.42637087810421
[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9].[C:2](=[C:3]=[O:4])([H:10])[H:11]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],96.05714576468509
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4][C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],68.8561571906929
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3]([O:4][H:7])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12],77.9934625549092
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]1([O:5][H:7])[N:6]([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],52.531294733448895
[O:1]=[C:2]([C:3]#[C:4][H:6])[H:5]>>[O:1]=[C:2]([C:4](=[C:3])[H:6])[H:5],51.137450426697704
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](/[C:2](=[N:3]\[H:11])[H:9])([H:6])([H:7])[H:8].[C:4]=[N:5][H:10],50.16408703904389
[C:4]([C:5]#[N:6])([H:7])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],73.91332313407538
[N:1]#[C:2][C:3]([C:4]#[N:5])([H:6])[H:7]>>[N+:1](#[C-:2])[C:3]([C:4]#[N:5])([H:6])[H:7],60.670100934946795
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[C:5]=[O:6])([H:7])([H:8])[H:9].[H:13][H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],50.6498917650343
[C:1]([N:2]([C:3]#[C:5][C:6](=[O:4])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],64.01423841057381
[C:1](=[C:2]=[C:3]=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:11])([H:8])[H:9].[H:7][H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],43.70183918162428
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])/[C:4]([O:5][H:13])=[N:6]\[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9],25.153383389246
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]=[C:3]=[N:4][H:12])([H:8])([H:9])[H:10].[C:5]([O:6][H:11])[N:7]([H:13])[H:14],65.94915437713
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:9],99.22433268465821
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2][C@@:4]([C:3]([H:11])([H:12])[H:13])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],68.8205906767575
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C-:2]([N+:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([O:7][C:3]([H:12])([H:13])[H:14])[H:18])[H:11])([H:8])([H:9])[H:10],102.36111046482401
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([O-:5])=[C+:6][O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],83.1166115395686
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]1([C:5]([H:14])([H:15])[H:16])[C:4]([H:11])([H:13])/[C:6]1=[N:7]\[H:12])([H:8])([H:9])[H:10],107.271976174149
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3](=[O:4])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14],71.8678814299613
[C:1]([C:2]([O+:3]=[C-:4][O:5][C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],46.51934751063659
[O:1](/[C:2](=[N:3]/[C:4]([C:5]#[N:6])([H:9])[H:10])[H:7])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],32.110202583919396
[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2][O:3][H:10])([H:6])([H:7])[H:8].[C:4]([O:5][H:13])([H:9])([H:11])[H:12],104.350379054392
